US07615562B2
1-Methyl-4-{4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-piperidin-4-ol
[4-(4-Bromophenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (116 mg; 0.3 mmol) in THF/isopentane (3 ml/0.6 ml) was cooled to −100° C. nBuLi (1.6M in hexane, 0.56 ml; 0.9 mmol) was added within 5 minutes and the reaction mixture stirred for 15 minutes at this temperature. N-methyl-4-piperidone (71 μl, 0.6 mmol) was added in THF (71 μl), the reaction mixture stirred for 10 minutes at −100° C., poured on water and extracted three times with EtOAc. The combined organic phases were dried over sodium sulfate, filtered, evaporated to dryness and purified via chromatography on silicagel (EtOAc/MeOH/ammonia:90/9/1 to 80/18/2) to give the title compound as a white solid. Yield: 25 mg (17%).

reactant | [4-(4-Bromophenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 0.3 mmol, 116 mg | BrC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C19H25BrN4
reactant | nBuLi | 0.9 mmol, 1.6M, 0.56 ml | [Li]CCCC
reactant | N-methyl-4-piperidone | 0.6 mmol, 71 μl | CN1CCC(CC1)=O | C6H11NO
solvent | THF isopentane | 3 ml | C1CCOC1.CCC(C)C
solvent | THF | 71 μl | C1CCOC1 | C4H8O
product | 1-Methyl-4-{4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-piperidin-4-ol | CN1CCC(CC1)(O)C1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C25H37N5O
